US05681838
Methyl (3-(3-(4-guanidinobenzoylamino)propyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride
384 mg (1.14 mmol) of 4-nitrophenyl 4-guanidinobenzoate, 390 mg (1.14 mmol) of methyl (3-(3-aminopropyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride, 55 mg (0.4 mmol) of HOBt and 140 mg (1.2 mmol) of N-ethylmorpholine are stirred at room temperature for 5 h in 10 ml of dimethylformamide. Following concentration, chromatography takes place, for purification, on silica gel using a mixture of methylene chloride, methanol, glacial acetic acid and water=85:15:2:2. The fractions containing the pure substance are concentrated and freeze dried.

reactant | 4-nitrophenyl 4-guanidinobenzoate | 1.14 mmol, 384 mg | N(C(=N)N)C1=CC=C(C(=O)OC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H12N4O4
reactant | methyl (3-(3-aminopropyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride | 1.14 mmol, 390 mg | Cl.NCCCN1C(N(C(C1)=O)C(C(=O)OC)C1=CC=CC=C1)=O
reactant | HOBt | 0.4 mmol, 55 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethylmorpholine | 1.2 mmol, 140 mg | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Methyl (3-(3-(4-guanidinobenzoylamino)propyl)-2,5-dioxoimidazolidin-1-yl)phenylacetate hydrochloride | Cl.N(C(=N)N)C1=CC=C(C(=O)NCCCN2C(N(C(C2)=O)C(C(=O)OC)C2=CC=CC=C2)=O)C=C1 | InChI=1S/C23H26N6O5.ClH/c1-34-21(32)19(15-6-3-2-4-7-15)29-18(30)14-28(23(29)33)13-5-12-26-20(31)16-8-10-17(11-9-16)27-22(24)25;/h2-4,6-11,19H,5,12-14H2,1H3,(H,26,31)(H4,24,25,27);1H
